US07622585B2
To a solution of 5-iodo-2-isopropoxyphenol (2.3 g, 8.3 mmol) in DMF (20 mL), K2CO3 (2.3 g, 16.5 mmol) and ethyl iodide (0.86 mL, 10.8 mmol) were added. The mixture was stirred at 40° C. for 2.0 h. It was diluted with diethyl ether, washed with brine, dried over MgSO4. The crude was purified by chromatography (5:1 EtOAc/hexanes) to give 2-ethoxy-4-iodo-1-isopropoxybenzene (2.5 g, 96% yield) as an oil.

reactant | 5-iodo-2-isopropoxyphenol | 8.3 mmol, 2.3 g | IC=1C=CC(=C(C1)O)OC(C)C | C9H11IO2
reactant | K2CO3 | 16.5 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 10.8 mmol, 0.86 mL | C(C)I | C2H5I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-ethoxy-4-iodo-1-isopropoxybenzene | 2.5 g, 96% yield | C(C)OC1=C(C=CC(=C1)I)OC(C)C | C11H15IO2
